US05281571
A solution of 1.4 g (4 mmole) 4-chloro-3-(2-fluoro-4-methoxy-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole in 20 mL methylene chloride was chilled to 0° C. Next 5.0 mL of a 1M methylene chloride solution of BBr3 (4.9 mmole) was added slowly over 10 minutes. The solution was allowed to stir overnight at room temperature. The solution was washed two times with water, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was recrystallized from hexane to give 0.7 g (54%) of 4-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-nitrophenol as a beige solid, mp 89°-90° C.

reactant | 4-chloro-3-(2-fluoro-4-methoxy-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 4 mmole, 1.4 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)[N+](=O)[O-])OC)F | C12H8ClF4N3O3
reactant | BBr3 | 4.9 mmole | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1M | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-nitrophenol | 0.7 g, 54% | ClC=1C(=NN(C1C(F)(F)F)C)C1=CC(=C(C=C1F)O)[N+](=O)[O-] | C11H6ClF4N3O3
